US04163057
A mixture of 300 g. (1.30 mole) 3-phenethyl-5-methyl-isoxazole-4-carboxylic acid ethyl ester, 146 g. (1.60 mole) potassium hydroxide 1500 ml. ethanol and 500 ml. water is stirred for 2 hours at room temperature and 2 additional hours at reflux. The ethanol is evaporated in vacuo and the aqueous solution is cooled and acidified with hydrochloric acid. The resulting solid is filtered and washed with water and triturated with methanol to give 3-phenethyl-5-methyl-isoxazole-4-carboxylic acid; m.p. 154° to 156° C.

reactant | 3-phenethyl-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 1.30 mole | C(C)OC(=O)C=1C(=NOC1C)CCC1=CC=CC=C1 | C15H17NO3
reactant | potassium hydroxide | 1.60 mole, 1500 ml | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-phenethyl-5-methyl-isoxazole-4-carboxylic acid | C(CC1=CC=CC=C1)C1=NOC(=C1C(=O)O)C | C13H13NO3
